US07148226B2
3-(5-Chloro-1H-benzoimidazol-2-ylsulfanyl)-6-[2-(3-chloro-4-isopropoxy-phenyl)-ethyl]-6-cyclopentyl-4-hydroxy-5,6-dihydro-pyran-2-one
The title compound was prepared analogously to Example C(4), where 3-Chloro-6-[2-(3-chloro-4-isopropoxy-phenyl)-ethyl]-6-cyclopentyl-4-hydroxy-5,6-dihydro-pyran-2-one was substituted in place of 3-Chloro-6-(2-cyclohex-1-enyl-ethyl)-6-cyclopentyl-4-hydroxy-5,6-dihydro-pyran-2-one and 5-Chloro-benzimidazole-2-thiol was substituted in place of 5-Pyridin-4-yl-4H-[1,2,4]triazole-3-thiol of that example.

reactant | 3-Chloro-6-[2-(3-chloro-4-isopropoxy-phenyl)-ethyl]-6-cyclopentyl-4-hydroxy-5,6-dihydro-pyran-2-one | ClC=1C(OC(CC1O)(C1CCCC1)CCC1=CC(=C(C=C1)OC(C)C)Cl)=O | C21H26Cl2O4
reactant | 3-Chloro-6-(2-cyclohex-1-enyl-ethyl)-6-cyclopentyl-4-hydroxy-5,6-dihydro-pyran-2-one | ClC=1C(OC(CC1O)(C1CCCC1)CCC1=CCCCC1)=O | C18H25ClO3
reactant | 5-Chloro-benzimidazole-2-thiol | ClC1=CC2=C(N=C(N2)S)C=C1 | C7H5ClN2S
reactant | 5-Pyridin-4-yl-4H-[1,2,4]triazole-3-thiol | N1=CC=C(C=C1)C=1NC(=NN1)S | C7H6N4S
product | 3-(5-Chloro-1H-benzoimidazol-2-ylsulfanyl)-6-[2-(3-chloro-4-isopropoxy-phenyl)-ethyl]-6-cyclopentyl-4-hydroxy-5,6-dihydro-pyran-2-one | ClC1=CC2=C(NC(=N2)SC=2C(OC(CC2O)(C2CCCC2)CCC2=CC(=C(C=C2)OC(C)C)Cl)=O)C=C1 | C28H30Cl2N2O4S
